US08981085B2
1H-Pyrrolo[2,3-c]pyridine (2.50 g, 21.2 mmol) and triethylamine (3.24 mL, 23.3 mmol) were placed in DCM (25 mL) at room temperature. di-tert-Butyl dicarbonate (4.85 g, 22.2 mmol) was then added, and the reaction stirred for 30 minutes. The reaction was then poured into water and extracted with DCM. The organic fraction was dried, filtered, and concentrated. The crude was purified by column chromatography on silica gel (500:3 DCM:MeOH) to give tert-butyl 1H-pyrrolo[2,3-c]pyridine-1-carboxylate (4.4 g, 95.3% yield).

reactant | 1H-Pyrrolo[2,3-c]pyridine | 21.2 mmol, 2.50 g | N1C=CC=2C1=CN=CC2 | C7H6N2
reactant | triethylamine | 23.3 mmol, 3.24 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-Butyl dicarbonate | 22.2 mmol, 4.85 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 4.4 g, 95.3% yield | N1(C=CC=2C1=CN=CC2)C(=O)OC(C)(C)C | C12H14N2O2
